US07705042B2
c) 4-Methyl-6′-(4-methyl-piperidin-1-yl)-5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl
To 6′-chloro-4-methyl-5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (32 mg, 0.12 mmol) was added N-methylpiperazine (370 mg, 3.7 mmol) and the resultant solution was stirred for 15 min. The reaction was diluted with EtOAc (50 mL), washed with H2O (2×20 mL), dried (K2CO3) and concentrated in vacuo to afford 37 mg (96%) of the title compound. Mass spectrum (ESI, m/z): Calcd. for C15H24N6O2, 321.2 (M+H), found 321.1.

reactant | 6′-chloro-4-methyl-5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.12 mmol, 32 mg | ClC1=C(N=CC(=N1)N1CCN(CC1)C)[N+](=O)[O-] | C9H12ClN5O2
reactant | N-methylpiperazine | 3.7 mmol, 370 mg | CN1CCNCC1 | C5H12N2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-Methyl-6′-(4-methyl-piperidin-1-yl)-5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 37 mg, 96% | CN1CCN(CC1)C1=NC(=C(N=C1)[N+](=O)[O-])N1CCC(CC1)C | C15H24N6O2
